US08471005B2
Into a 8-dram vial, (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (66.6 mg, 0.000172 mol), 3-nitrobenzylamine (31.42 mg, 0.0002065 mol) Palladium Acetate (4.00 mg, 0.0000178 mol), 9,9-Dimethyl-4,5-bis(diphenylphosphino)xanthene (30.0 mg, 0.0518 mmol), and Cesium Carbonate (240.0 mg, 0.7366 mmol) were added. The mixture was purged with nitrogen for 15 minutes. 1,4-Dioxane (2.00 mL) was added. The reaction vessel was sealed and heated at 120° C. for 2 hours. The reaction mixture was partitioned with DCM. The solid was filtered through celite and washed with DCM. The filtrate was evaporated to give a semi-solid. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN (0 to 20% ACN). The collected fractions were lyophilized to give N(2)-[4-(4-Methyl-piperazin-1-yl)-phenyl]-N(7)-(3-nitro-benzyl)-pyrrolo[2,1-f][1,2,4]triazine-2,7-diamine a solid (32 mg, 32%). The solid was triturated with Et2O to give a yellow solid. LCMS (E/I+) 459.14 (M+H). NMR 1H (DMSO-d6)-9.75 (bs, 1H), 9.31 (s, 1H), 8.36 9 s, 1H), 8.27 (s, 1H), 8.14 (d, 1H, J=8.20 Hz), 7.86 (d, 1H, J=7.60 Hz), 7.59-7.73 (m, 3H), 7.49 (bs, 1H), 7.09 (bs, 1H), 6.98 (d, 2H, J=8.20 Hz), 6.55 (bs, 1H), 4.76 (s, 2H), 3.75 (d, 2H, J=12.89 Hz), 3.54 (d, 2H, J=11.72 Hz), 3.16 (q, 2H, J=18.79 Hz), 2.79-2.99 (m, 5H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.000172 mol, 66.6 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 3-nitrobenzylamine | 0.0002065 mol, 31.42 mg | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 9,9-Dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.0518 mmol, 30.0 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | Cesium Carbonate | 0.7366 mmol, 240.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
product | N(2)-[4-(4-Methyl-piperazin-1-yl)-phenyl]-N(7)-(3-nitro-benzyl)-pyrrolo[2,1-f][1,2,4]triazine-2,7-diamine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2NCC2=CC(=CC=C2)[N+](=O)[O-] | C24H26N8O2
